US04886835
The procedure is as in Example 4 for the preparation of ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino2,4-hexadienoate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (11.4 g), a 2M ethanolic solution of sodium ethylate (20 cc) and α-methoxyacetophenone (6 g) in ethanol (50 cc). After purification by chromatography on a silica column with a mixture of dicholoromethane and ethyl acetate (50:50 by volume) as eluent, ethyl 2-dimethylamino-5-methoxy-6-oxo-6-phenyl-2,4-hexadienoate (8.1 g) is obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino2,4-hexadienoate | C1(=CC=CC=C1)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 11.4 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 20 cc | CC[O-].[Na+]
reactant | α-methoxyacetophenone | 6 g | COCC(=O)C1=CC=CC=C1 | C9H10O2
solvent | ethanol | 50 cc | C(C)O | C2H6O
product | ethyl 2-dimethylamino-5-methoxy-6-oxo-6-phenyl-2,4-hexadienoate | 8.1 g | CN(C(C(=O)OCC)=CC=C(C(C1=CC=CC=C1)=O)OC)C | C17H21NO4
